US04675331
A mixture composed of 2-amino-6-trifluoromethoxybenzothiazole (2.34 g), 2,6-difluorobenzoylchloride (1.8 g) and chlorobenzene (20 ml) was boil for 1 hour. The hot reaction mixture was filtered and cooled to 10°-20° C. The resulting crystals were collected by filtration and washed with n-hexane (20 ml) to give N-(6-trifluoromethoxybenzothiazol-2-yl)-2,6-difluorobenzamide (3.15 g).

reactant | 2-amino-6-trifluoromethoxybenzothiazole | 2.34 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | 2,6-difluorobenzoylchloride | 1.8 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-(6-trifluoromethoxybenzothiazol-2-yl)-2,6-difluorobenzamide | 3.15 g | FC(OC1=CC2=C(N=C(S2)NC(C2=C(C=CC=C2F)F)=O)C=C1)(F)F | C15H7F5N2O2S
